US05272272
Alpha-L-glutamyl-5-aminopyridine-2-carbonitrile is prepared by the method described in J. Med. Chem., 1973, 16, 163-166. A solution of 5.5 g (24.4 mmol) of N-trifluoroacetyl-L-glutamic anhydride and 2.6 g (21.8 mmol) of 2-cyano-5-aminopyridine (prepared according to tetrahydrofuran (20 cm3) is stirred for 12 h at 40° C. The solvent is then removed and the residue is dissolved in a 1% solution of sodium carbonate (80 cm3). The solution is rapidly washed with methylene chloride (3×30 cm3) and then acidified to pH 2-3 with a 6 N solution of HCl. Extraction with a solution of ethyl acetate (3×50 cm3), followed by drying over sodium sulfate and then evaporation of the solvent, gives 5.1 g of a crude product, N-trifluoroacetyl-alpha-L-glutamyl-5-aminopyridine-2-carbonitrile, which is obtained pure (melting point: 157° C.) after recrystallization several times from an ethanol/hexane mixture (40/60). After treatment of this compound with a 7.5% solution of ammonia for 4 h at 20° C., followed by concentration to dryness, alpha-L-glutamyl-5-aminopyridine-2-carbonitrile is finally obtained (quantitative yield, melting point: 152° C.).

reactant | N-trifluoroacetyl-L-glutamic anhydride | 24.4 mmol, 5.5 g | FC(C(=O)N[C@H]1CCC(=O)OC1=O)(F)F | C7H6F3NO4
reactant | 2-cyano-5-aminopyridine | 21.8 mmol, 2.6 g | C(#N)C1=NC=C(C=C1)N | C6H5N3
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | Alpha-L-glutamyl-5-aminopyridine-2-carbonitrile | quantitative yield | N[C@@H](CCC(O)=O)C(=O)C=1C(=NC=C(C1)N)C#N | C11H12N4O3
